US04153719
(b) 4-(4-Methoxystyryl)benzyl alcohol
Ethyl 4-(4-methoxystyryl)benzoate (67 g.) in 600 ml. of tetrahydrofuran was gradually added to a suspension of 12 g. of lithium aluminum hydride in 300 ml. of tetrahydrofuran at such a rate to maintain gentle reflux. The reaction mixture was heated at reflux for two hours, then cooled and 24 ml. of water in 24 ml. of tetrahydrofuran added slowly. The mixture was stirred for one hour, heated to reflux temperature and filtered hot through a steam-jacketed funnel. The solvent was removed from the filtrate to give 55 g. of 4-(4-methoxystyryl)benzyl alcohol, m.p. 200°-202° C. when recrystallized from ethanol.

reactant | Ethyl 4-(4-methoxystyryl)benzoate | 67 g | COC1=CC=C(C=CC2=CC=C(C(=O)OCC)C=C2)C=C1 | C18H18O3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(4-Methoxystyryl)benzyl alcohol | COC1=CC=C(C=CC2=CC=C(CO)C=C2)C=C1 | C16H16O2
